US08017602B2
Step iii) N-Cyclohexyl-N-(2,2-dimethoxyethyl)-3-(3-(1-isopropyl-1H-1,2,3-triazol-4-yl)phenethoxy)propanamide
The subtitled compound (230 mg) was prepared from 3-(3-(1-isopropyl-1H-1,2,3-triazol-4-yl)phenethoxy)propanoic acid [Example 12, Step ii)] and N-(2,2-dimethoxyethyl)cyclohexanamine using a similar method to that described in Example 4, Step v) and the elution gradient to 0 to 100% ethyl acetate in isohexane. MS [M+H-MeOH]+=441 (MultiMode+) 1H NMR (400 MHz, CD3OD) δ 8.36 (s, 1H), 7.71-7.61 (m, 2H), 7.32 and 7.31 (2×t, J=7.7 Hz, 1H), 7.19 (d, J=8.0 Hz, 1H), 4.87 (septet, J=6.7 Hz, 1H), 4.51 and 4.36 (2×t, J=5.4 Hz, 1H), 4.03-3.94 and 3.69-3.60 (2×m, 1H), 3.76-3.66 (m, 4H), 3.34 and 3.25 (2×d, J=5.3 Hz, 2H), 3.34 (s, 3H), 3.31 (s, 3H), 2.91-2.85 (m, 2H), 2.68-2.61 (m, 2H), 1.79-1.01 (m, 10H), 1.61 (d, J=6.8 Hz, 6H), a ˜1:1 mixture of rotamers is observed.

reactant | 3-(3-(1-isopropyl-1H-1,2,3-triazol-4-yl)phenethoxy)propanoic acid | C(C)(C)N1N=NC(=C1)C=1C=C(CCOCCC(=O)O)C=CC1 | C16H21N3O3
reactant | N-(2,2-dimethoxyethyl)cyclohexanamine | COC(CNC1CCCCC1)OC | C10H21NO2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | isohexane | CCCC(C)C | C6H14
product | N-Cyclohexyl-N-(2,2-dimethoxyethyl)-3-(3-(1-isopropyl-1H-1,2,3-triazol-4-yl)phenethoxy)propanamide | 230 mg | C1(CCCCC1)N(C(CCOCCC1=CC(=CC=C1)C=1N=NN(C1)C(C)C)=O)CC(OC)OC | C26H40N4O4
